US06541521B1
In a manner similar to that described in Example 3, 3-phenyl-propionyl chloride (0.057 g, 0.00034 mol) was allowed to react with 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester (0.052 g, 0.00025 mol), and the resulting intermediate was hydrolyzed to give 0.060 g of 4-oxo-4-[4-(3-phenyl-propionylamino)-phenyl]-butyric acid as an off-white solid; MS-(AP+) MH+326.

reactant | 3-phenyl-propionyl chloride | 0.00034 mol, 0.057 g | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester | 0.00025 mol, 0.052 g | NC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H13NO3
product | 4-oxo-4-[4-(3-phenyl-propionylamino)-phenyl]-butyric acid | 0.060 g | O=C(CCC(=O)O)C1=CC=C(C=C1)NC(CCC1=CC=CC=C1)=O | C19H19NO4
